US07214673B2
(S)-1,4-Dibenyl-2-(2-(2-fluoro-phenyl)-ethyl)-piperazine
Combine (S)-1,4-dibenzyl-2-vinyl-piperazine (2.0 g, 6.84 mmol) and 9-borabicyclo[3.3.1]nonane (82.1 mL, 41.04 mmol, 0.5 M in THF) and stir at ambient temperature. After 24 hours, add 1-fluoro-2-iodo-benzene (2.3 g, 10.26 mmol), triphenylphosphine (287.0 mg, 1.09 mmol), tetrakis(triphenylphosphine) palladium(0)(158.0 mg, 0.14 mmol), and 3N NaOH (5.6 mL) and stir at 60° C. After 22 hours, add ethanolamine (10.0 mL) and dilute the mixture with water. Extract with ethyl acetate and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue Purify the residue on silica gel using ethyl acetate/hexanes (5:95) to give a yellow oil. Dissolve the yellow oil in acetic acid/methanol (1:9) and apply to an SCX column. Wash the column with methanol followed by 2N ammonia in methanol to give the title compound: mp 62–66° C.; mass spectrum (ion spray): m/z=389.4 (M+1).

reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 6.84 mmol, 2.0 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | 9-borabicyclo[3.3.1]nonane | 41.04 mmol, 0.5 M, 82.1 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | 1-fluoro-2-iodo-benzene | 10.26 mmol, 2.3 g | FC1=C(C=CC=C1)I | C6H4FI
reactant | triphenylphosphine | 1.09 mmol, 287.0 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | NaOH | 3N, 5.6 mL | [OH-].[Na+]
reactant | ethanolamine | 10.0 mL | C(O)CN | C2H7NO
solvent | water | O | H2O
solvent | acetic acid methanol | C(C)(=O)O.CO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.14 mmol, 158.0 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-1,4-Dibenyl-2-(2-(2-fluoro-phenyl)-ethyl)-piperazine | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=C(C=CC=C1)F | C26H29FN2
